US09023846B2
A mixture of 4-tert-butyl-1-methyl-1H-imidazole-2-carboxylic acid methyl ester (680 mg, 3.46 mmol, prepared as described in the previous step) and 1N NaOH (3.81 mL, 3.81 mmol) in MeOH (10 mL) was stirred at room temperature for 2 h. To the resulting mixture was then added 1.0 N aqueous HCl (3.85 mL). The solvent was removed under reduced pressure and the residue was treated with DCM (50 mL). The solid was filtered off through diatomaceous earth and washed with DCM. The combined organic layers were dried with Na2SO4 and concentrated in vacuo to yield 4-tert-butyl-1-methyl-1H-imidazole-2-carboxylic acid as a white solid. 1H-NMR (400 MHz, CDCl3) δ: 7.00 (s, 1H), 4.18 (s, 3H), 1.49 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated For C9H14N2O2: 183.1 (M+H), Measured: 183.1.

reactant | 4-tert-butyl-1-methyl-1H-imidazole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(N1)C(C)(C)C)C | C10H16N2O2
reactant | NaOH | 3.81 mmol, 1N, 3.81 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 3.85 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 4-tert-butyl-1-methyl-1H-imidazole-2-carboxylic acid | C(C)(C)(C)C=1N=C(N(C1)C)C(=O)O | C9H14N2O2
